US04517003
A reaction mixture consisting of 2,2-dichloroacetamide (6.4 g, 50 mmol), phosphorus pentachloride (10.4 g, 50 mmol), and carbon tetrachloride (50 mL) was stirred under nitrogen while heated at reflux for 30 minutes. A clear solution resulted, which was cooled to room temperature. Formic acid (1.9 mL, 50 mmol) was added dropwise with stirring, and formation of a white precipitate was observed. The stirring was continued for 1 hour at ambient temperature. The white solid was separated by filtration, rinsed with carbon tetrachloride, and dried in vacuum over phosphorus pentoxide at ambient temperature. A yield of 10 g (82%) of N-(dichlorophosphinyl)-2,2-dichloroacetamide was obtained.

reactant | 2,2-dichloroacetamide | 50 mmol, 6.4 g | ClC(C(=O)N)Cl | C2H3Cl2NO
reactant | phosphorus pentachloride | 50 mmol, 10.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Formic acid | 50 mmol, 1.9 mL | C(=O)O | CH2O2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(dichlorophosphinyl)-2,2-dichloroacetamide | yield of 10 g, 82% | ClP(=O)(NC(C(Cl)Cl)=O)Cl | C2H2Cl4NO2P
